US06730674B2
6-(3-Trifluoromethyl-benzenesulfonyl)-2H-pyridazin-3-one
A mixture of 3,6-dichloropyridazine (4.44 g), 3-trifluoromethylphenyl sulfinic acid sodium salt (6.93 g), isopropanol (30 mL), and water (1 mL) was prepared and refluxed for 18 hours. The reaction mixture was then cooled, diluted with water (100 mL) and the precipitated solid was collected. The solid was triturated with n-propanol and the solid was collected to obtain the title compound (25%, 2.3 g).

reactant | 3,6-dichloropyridazine | 4.44 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 3-trifluoromethylphenyl sulfinic acid sodium salt | 6.93 g | [Na+].FC(C=1C=C(C=CC1)S(=O)[O-])(F)F
reactant | isopropanol | 30 mL | C(C)(C)O | C3H8O
solvent | water | 100 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 6-(3-Trifluoromethyl-benzenesulfonyl)-2H-pyridazin-3-one | 2.3 g, 25% | FC(C=1C=C(C=CC1)S(=O)(=O)C=1C=CC(NN1)=O)(F)F | C11H7F3N2O3S
